US05498630
A solution of acetyl chloride (7.11 mL, 100 mmol) was added dropwise to an ice water-cooled solution of 1-methylheptyl amine (8.30 g, 64 mmol) and triethylamine (20.91 mL, 150 mmol) in THF (100 mL). The resulting mixture was stirred at RT for 1 h, then was diluted with ethyl acetate and washed twice with 10% HCl, twice with sat aq NaHCO3, and then twice with brine. The organic solution was dried (MgSO4), and concentrated to afford 8.13 g N-(1-methylhept-1-yl)acetamide, a 73% yield.

reactant | acetyl chloride | 100 mmol, 7.11 mL | C(C)(=O)Cl | C2H3ClO
reactant | 1-methylheptyl amine | 64 mmol, 8.30 g | CC(CCCCCC)N | C8H19N
reactant | triethylamine | 150 mmol, 20.91 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(1-methylhept-1-yl)acetamide | 8.13 g, 73% yield | CC(CCCCCC)NC(C)=O | C10H21NO
